US07718683B2
To a stirred solution of 3-methylsulfanyl-propionic acid (120 mg, 1.0 mmol) under an inert atmosphere in 6 mL of anhydrous DCM and DMF (200 μL) was added oxalyl chloride (89 μL, 1.0 mmol). The resultant solution was stirred at room temperature overnight and then added to a solution of 4-tert-butyl-N-(4-chloro-5-fluoro-2-hydrazinocarbonyl-phenyl)-benzenesulfonamide (400 mg, 1.0 mmol) and Et3N (0.35 mL, 2.5 mmol) at 0° C. The resultant solution was stirred at room temperature for 4 hours and the solvent was removed in vacuo. The residue was purified via automated silica gel chromatography to afford 4-tert-butyl-N-{4-chloro-5-fluoro-2-[N′-(3-methylsulfanyl-propionyl)-hydrazinocarbonyl]-phenyl}-benzenesulfonamide as an oil: MS (ES) M+H expected 502.1, found 502.0.

reactant | 3-methylsulfanyl-propionic acid | 1.0 mmol, 120 mg | CSCCC(=O)O | C4H8O2S
reactant | oxalyl chloride | 1.0 mmol, 89 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-tert-butyl-N-(4-chloro-5-fluoro-2-hydrazinocarbonyl-phenyl)-benzenesulfonamide | 1.0 mmol, 400 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C(=C1)F)Cl)C(=O)NN | C17H19ClFN3O3S
reactant | Et3N | 2.5 mmol, 0.35 mL | CCN(CC)CC | C6H15N
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 200 μL | CN(C)C=O | C3H7NO
product | 4-tert-butyl-N-{4-chloro-5-fluoro-2-[N′-(3-methylsulfanyl-propionyl)-hydrazinocarbonyl]-phenyl}-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C(=C1)F)Cl)C(=O)NNC(CCSC)=O | C21H25ClFN3O4S2
